US20010021514A1
I) Preparation of aminophenanthroline (Phen-NH2) (V)
2.0 g of 5-nitro-1,10-phenanthroline and 400 mg of 5% palladium over active carbon were dissolved and suspended in 40 mL of ethanol. 2 mL of hydrazine hydrate dissolved in 40 mL of ethanol were slowly added. The reaction mixture was then heated to 70° C. for 7 hours. Palladium on active carbon was filtered, and the solution was concentrated to about 10 mL. 25 mL of water were added, whereupon a light yellow product precipitated. After filtration, the product was dried overnight under high vacuum. Yield: 1.35g, 81%.

reactant | 5-nitro-1,10-phenanthroline | 2.0 g | [N+](=O)([O-])C1=C2C=CC=NC2=C2N=CC=CC2=C1 | C12H7N3O2
reactant | hydrazine hydrate | 2 mL | O.NN
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | ethanol | 40 mL | C(C)O | C2H6O
catalyst | palladium | 400 mg | [Pd] | Pd
product | aminophenanthroline | NC1=NC2=C3N=CC=CC3=CC=C2C=C1 | C12H9N3
